US06977255B2
8-(2-chlorophenyl)methoxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one (TGX-177)
8-Hydroxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one (59 mg, 0.24 mmol) was dissolved in acetonitrile (10 ml) and then treated with anhydrous potassium carbonate (197 mg, 1.4 mmol) followed by 2-chlorobenzylbromide (46 mg, 0.29 mmol) and the mixture was stirred at 80° C. overnight. Upon cooling the mixture was adsorbed directly onto silica, then eluted through a silica column using ethyl acetate. The purified product was obtained as a tan solid (34 mg).

reactant | 8-Hydroxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.24 mmol, 59 mg | OC1=CC=2N(C(C=C(N2)N2CCOCC2)=O)C=C1 | C12H13N3O3
reactant | potassium carbonate | 1.4 mmol, 197 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorobenzylbromide | 0.29 mmol, 46 mg | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 8-(2-chlorophenyl)methoxy-2-morpholinyl-4H-pyrido[1,2-a]pyrimidin-4-one | 34 mg | ClC1=C(C=CC=C1)COC1=CC=2N(C(C=C(N2)N2CCOCC2)=O)C=C1 | C19H18ClN3O3
